US08980903B2
5-Bromo-2-chloro-N-cyclopentylpyrimidin-4-amine (1):
To a solution of 5-bromo-2,4-dichloropyrimidine (45.6 g, 200 mmol) in dioxane (400 mL) was added N-cyclopentylamine (20.4 g, 240 mmol) at room temperature. The mixture thus obtained was stirred at room temperature for 6 h. The reaction mixture was then diluted with ethyl acetate and washed with brine and dried over MgSO4. The solvent was evaporated to give the title compound as a light yellow solid (56 g, 100%) which was used in next step without further purification. 1H NMR (500 MHz, DMSO-d6) δ 8.23 (1H, s), 7.37 (1H, d, J=7.3 Hz), 4.31 (1H, m), 1.92 (2H, m), 1.71 (2H, m), 1.53-1.59 (4H, m) ppm; LCMS-ESI (POS), M/Z, M+1: Found 276.0, Calculated 275.9.

reactant | 5-bromo-2,4-dichloropyrimidine | 200 mmol, 45.6 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | N-cyclopentylamine | 240 mmol, 20.4 g | C1(CCCC1)N | C5H11N
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-2-chloro-N-cyclopentylpyrimidin-4-amine | 56 g, 100% | BrC=1C(=NC(=NC1)Cl)NC1CCCC1 | C9H11BrClN3
